US04281121
5-ethylsulfinyl-1,3,4-thiadiazole-2-carboxamide
38 g of 5-ethylthio-1,3,4-thiadiazole-2-carboxamide are dissolved at 40° C. in 400 ml of glacial acetic acid and are then slowly reacted with 22.6 ml of a 30% hydrogen peroxide upon stirring. The solution is kept for another 3 hours at the same temperature. At the end of this period the oxidation is sufficiently complete not to require any further addition of heat. After standing overnight the reaction mixture is stirred into two liters of icewater resulting in the precipitation of a solid material which is removed by suction and recrystallized from isopropanol.

reactant | 5-ethylthio-1,3,4-thiadiazole-2-carboxamide | 38 g | C(C)SC1=NN=C(S1)C(=O)N | C5H7N3OS2
reactant | hydrogen peroxide | OO | H2O2
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
product | 5-ethylsulfinyl-1,3,4-thiadiazole-2-carboxamide | C(C)S(=O)C1=NN=C(S1)C(=O)N | C5H7N3O2S2
